US07700591B2
A mixture of methyl 2-fluoro-5-nitrobenzoate (14.52 g, 72.92 mmol) and Pd/C (10%, Degussa type, 726 mg) in methanol was agitated under 60 psi of H2 using a Parr apparatus for 3 h. The reaction mixture was filtered and the filtrate was concentrated to give methyl 5-amino-2-fluorobenzoate.

reactant | methyl 2-fluoro-5-nitrobenzoate | 72.92 mmol, 14.52 g | FC1=C(C(=O)OC)C=C(C=C1)[N+](=O)[O-] | C8H6FNO4
solvent | methanol | CO | CH4O
catalyst | Pd/C | 726 mg | [Pd] | Pd
product | methyl 5-amino-2-fluorobenzoate | NC=1C=CC(=C(C(=O)OC)C1)F | C8H8FNO2
